US06660753B2
A solution of methyl-3-cyano-5-iodobenzoate (640 mg, 2.3 mmol) in tetrahydrofuran (8 mL) was treated with 0.5M LiOH (5.5 mL, 2.75 mmol) and methanol. The reaction mixture was heated at reflux for 1 hour. The solvent was concentrated in vacuo and the mixture treated with 1N HCl. The resulting white precipitate was filtered and the filtrate was extracted with dichloromethane. The residue and the extracted filtrate were combined and concentrated in vacuo to afford 590 mg (94%) of 3-cyano-5-iodobenzoic acid, as a white solid.

reactant | methyl-3-cyano-5-iodobenzoate | 2.3 mmol, 640 mg | COC(C1=CC(=CC(=C1)I)C#N)=O | C9H6INO2
reactant | LiOH | 2.75 mmol, 0.5M, 5.5 mL | [Li+].[OH-]
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 3-cyano-5-iodobenzoic acid | 590 mg, 94% | C(#N)C=1C=C(C(=O)O)C=C(C1)I | C8H4INO2
